US04117167
Powdered potassium hydroxide (2.0 g.) was added in portions over 5 minutes to a stirred solution of 3-amino-4-chlorotoluene (2.8 g.) in dimethylformamide (15 ml.) at the ambient temperature and stirring was continued for a further 5 minutes. A solution of 2-chloro-3,5-dinitro-benzotrifluoride (5.4 g.) in dimethylformamide (15 ml.) was then added over 5 minutes, and following the addition, the mixture was stirred for 30 minutes. After acidification with concentrated hydrochloric acid the mixture was poured into water (15 ml.). The precipitated solid was separated from the supernatant liquid by decantation and recrystallised from methylated spirit to yield 2(2-chloro-5-methylanilino)-3,5-dinitrobenzotrifluoride, with a melting point of 127° C.

reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | 3-amino-4-chlorotoluene | 2.8 g | NC=1C=C(C=CC1Cl)C | C7H8ClN
reactant | 2-chloro-3,5-dinitro-benzotrifluoride | 5.4 g | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | 2(2-chloro-5-methylanilino)-3,5-dinitrobenzotrifluoride | ClC1=C(NC2=C(C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F)C=C(C=C1)C | C14H9ClF3N3O4
